US07576111B2
a) 2-((2R)-2-Hydroxy-3-{[4-(3-oxo-4-morpholinyl)phenyl]amino}propyl)-1H-isoindole-1,3(2H)-dione
A suspension of 2-[(2S)-2-oxiranylmethyl]-1H-isoindole-1,3(2H)-dione (A. Gutcait et al. Tetrahedron Asym. 1996, 7, 1641) (5.68 g, 27.9 mmol) and 4-(4-aminophenyl)-3-morpholinone (5.37 g, 27.9 mmol) in ethanol/water (9:1, 140 ml) is refluxed for 14 h (the precipitate dissolves, after some time again formation of a precipitate). The precipitate (desired product) is filtered off, washed three times with diethyl ether and dried. The combined mother liquors are concentrated under reduced pressure and, after addition of a second portion of 2-[(2S)-2-oxiranylmethyl]-1H-isoindole-1,3(2H)-dione (2.84 g, 14.0 mmol), suspended in ethanol/water (9:1, 70 ml) and refluxed for 13 h (the precipitate dissolves, after some time again formation of a precipitate). The precipitate (desired product) is filtered off, washed three times with diethyl ether and dried. Total yield: 10.14 g, 92% of theory.

reactant | 2-[(2S)-2-oxiranylmethyl]-1H-isoindole-1,3(2H)-dione | O1[C@H](C1)CN1C(C2=CC=CC=C2C1=O)=O | C11H9NO3
reactant | 4-(4-aminophenyl)-3-morpholinone | 27.9 mmol, 5.37 g | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
reactant | 2-[(2S)-2-oxiranylmethyl]-1H-isoindole-1,3(2H)-dione | 14.0 mmol, 2.84 g | O1[C@H](C1)CN1C(C2=CC=CC=C2C1=O)=O | C11H9NO3
solvent | ethanol water | 140 ml | C(C)O.O
solvent | ethanol water | 70 ml | C(C)O.O
product | 2-((2R)-2-Hydroxy-3-{[4-(3-oxo-4-morpholinyl)phenyl]amino}propyl)-1H-isoindole-1,3(2H)-dione | O[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)CNC1=CC=C(C=C1)N1C(COCC1)=O | C21H21N3O5
